US04572912
0.725 g of 5-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione was dissolved in 4 ml of benzene; 400 mg of dry pyridine were added; 0.2 g of acetic anhydride was added dropwise under a nitrogen stream at 5°-10° C.; and the mixture was reacted for 2 days at room temperature. The resulting white crystals were separated by filtration, washed with benzene and vacuum-dried for 30 minutes at 90° C., giving 0.74 g of the benzene mono adduct of 5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione. This substance was liquefied at 98°-100° C., solidified and again liquefied at 176°-178° C.

reactant | 5-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 0.725 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C24H27NO5S
reactant | pyridine | 400 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C26H29NO6S
